US04051254
3,5-Dimethyl-4-(ethoxyacetamido)phenyl N-methylcarbamate
3,5-Dimethyl-4-ethoxyacetamidophenol (1.1g., 0.0049 mole, m.p. 157°-59° C., prepared by reaction of ethoxyacetyl chloride with 3,5-dimethyl-4-aminophenol) was reacted with methyl isocyanate (0.3g., 0.0053 mole) using benzeneacetonitrile as solvent and triethylamine as a catalyst. The reaction mixture was stirred at ambient temperature for 31/2 hours, followed by warming at about 45° C. for 2 hours. Solvents were removed under reduced pressure, and the residual solid recrystallized from diethylether and benzene (m.p. 112.5°-115° C.).

reactant | 3,5-Dimethyl-4-ethoxyacetamidophenol | 0.0049 mole, 1.1g | CC=1C=C(C=C(C1NC(COCC)=O)C)O | C12H17NO3
reactant | methyl isocyanate | 0.0053 mole, 0.3g | CN=C=O | C2H3NO
solvent | benzeneacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
catalyst | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,5-Dimethyl-4-(ethoxyacetamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C(=C1)C)NC(COCC)=O)C)=O | C14H20N2O4
